US08877782B2
5-Bromo-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester
As described for example 5, (5-methyl-3-phenyl-isoxazol-4-yl)-methanol (3.60 mg, 19.0 mmol) was converted using methyl 5-bromo-6-chloronicotinate instead of 6-chloronicotinonitrile to the title compound (SiO2, heptane:ethyl acetate=90:10 to 60:40, 2.83 g, 37%) which was obtained as a white solid. MS: m/e=403.3/405.2 [M+H]′.

reactant | (5-methyl-3-phenyl-isoxazol-4-yl)-methanol | 19.0 mmol, 3.60 mg | CC1=C(C(=NO1)C1=CC=CC=C1)CO | C11H11NO2
reactant | methyl 5-bromo-6-chloronicotinate | BrC=1C(=NC=C(C(=O)OC)C1)Cl | C7H5BrClNO2
product | 5-Bromo-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 2.83 g, 37% | COC(C1=CN=C(C(=C1)Br)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C18H15BrN2O4
